US06897210B2
A mixture of 7-(2-(2-bromoethoxy)ethoxy)4-(chloro-2-fluoroanilino)4 methoxyquinazoline (150 mg, 0.32 mmol) in 1-methylpiperazine (2 ml) was heated at 100° C. for 1 hour. The mixture was allowed to cool and was partitioned between ethyl acetate and water. The organic layer was separated and washed with water and then brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography on silica eluting with methylene chloride/methanol (85/15 followed by 80/20). The purified solid product was dissolved in methylene chloride/methanol (III) and 2.9M ethereal hydrogen chloride was added. The volatiles were removed by evaporation and the solid was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)+methoxy-722-[4-methylpiperazin-1-yl]ethoxy)ethoxy)quinazoline hydrochloride (54 mg, 28%).

reactant | 7-(2-(2-bromoethoxy)ethoxy)4-(chloro-2-fluoroanilino)4 methoxyquinazoline | 0.32 mmol, 150 mg | BrCCOCCOC1=CC=C2C(NC=NC2=C1)(OC)N(C1=C(C=CC=C1)F)Cl | C19H20BrClFN3O3
solvent | 1-methylpiperazine | 2 ml | CN1CCNCC1 | C5H12N2
product | quinazoline hydrochloride | 54 mg, 28% | Cl.N1=CN=CC2=CC=CC=C12 | InChI=1S/C8H6N2.ClH/c1-2-4-8-7(3-1)5-9-6-10-8;/h1-6H;1H
